US04512990
Potassium superoxide (0.50 g) was added to a solution of 1-(5-bromopentanoyl)-1,2,3,4-tetrahydroquinoline (1.8 g) and 18-Crown-6 (0.4 g) in dimethylsulfoxide (25 ml). After 8 hours the solution was added to water and extracted with ether. The extract was washed, dried and evaporated and the residue was chromatographed on silica gel, eluting with 95:5 methylene chloride:methanol, to yield 1-(5-hydroxypentanoyl)-1,2,3,4-tetrahydroquinoline.

reactant | Potassium superoxide | 0.50 g | O=O.[K+]
reactant | 1-(5-bromopentanoyl)-1,2,3,4-tetrahydroquinoline | 1.8 g | BrCCCCC(=O)N1CCCC2=CC=CC=C12 | C14H18BrNO
reactant | 18-Crown-6 | 0.4 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | water | O | H2O
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
product | 1-(5-hydroxypentanoyl)-1,2,3,4-tetrahydroquinoline | OCCCCC(=O)N1CCCC2=CC=CC=C12 | C14H19NO2
